US05057513
A suspension of sodium hydride (30 mg) in dimethylsulfoxide (5 ml) was heated at 60° C. under nitrogen atmosphere. After one hour, 1-phenylmethyl-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide (0.32 g) and 1,4-dibromobutane (5 ml) were added to the mixture at room temperature. After two hours, the mixture was diluted with ethyl acetate (30 ml) and washed with water (30 ml) and brine (30 ml). The organic layer was dried over magnesium sulfate and concentrated in vacuo. The residue was purified with silica gel column (10 g) (ethyl acetate:hexane=1:1) to give 1-phenylmethyl-10-(4-bromobutyl)-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide (0.35 g).

reactant | sodium hydride | 30 mg | [H-].[Na+]
reactant | 1-phenylmethyl-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide | 0.32 g | C1(=CC=CC=C1)CC1CCCCC12S(CCNC(C2)=O)(=O)=O | C17H23NO3S
reactant | 1,4-dibromobutane | 5 ml | BrCCCCBr | C4H8Br2
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-phenylmethyl-10-(4-bromobutyl)-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide | 0.35 g | C1(=CC=CC=C1)CC1CCCCC12S(CCN(C(C2)=O)CCCCBr)(=O)=O | C21H30BrNO3S
